### PR TITLE
Summary file for construction of monad from a binding signature

### PR DESCRIPTION
**Pull request by benediktahrens**
- the beginning of such a file
- HTML links from header summary to identifiers in `cocontfunctors`

### CODE REVIEW

File: UniMath/SubstitutionSystems/FromSigsToMonads_Summary.v [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+  : Π (g : graph) (D : diagram g HSET), ColimCocone D.
+Proof.
+  exact category_hset_structures.ColimCoconeHSET.
+Defined.
+
+Lemma is_omega_cocont_binproduct_functor
+  : Π (C : precategory) (PC : BinProducts C),
+    has_homsets C → has_exponentials PC → is_omega_cocont (binproduct_functor PC).
+Proof.
+  exact cocontfunctors.is_omega_cocont_binproduct_functor.
```
Comment (DanGrayson) [inline UniMath/SubstitutionSystems/FromSigsToMonads_Summary.v]: Why qualify the name instead of writing just `is_omega_cocont_binproduct_functor`?  Similarly in other locations.

Comment (benediktahrens) [inline UniMath/SubstitutionSystems/FromSigsToMonads_Summary.v]: On 08/18/2016 04:32 PM, Daniel R. Grayson wrote:
>> +  Lims A → RightKanExtension.GlobalRightKanExtensionExists M C K A hsC hsA.
>> +Proof.
>> +  exact cocontfunctors.RightKanExtension_from_limits.
>> +Defined.
>> +
>> +Definition ColimCoconeHSET
>> +  : Π (g : graph) (D : diagram g HSET), ColimCocone D.
>> +Proof.
>> +  exact category_hset_structures.ColimCoconeHSET.
>> +Defined.
>> +
>> +Lemma is_omega_cocont_binproduct_functor
>> +  : Π (C : precategory) (PC : BinProducts C),
>> +    has_homsets C → has_exponentials PC → is_omega_cocont (binproduct_functor PC).
>> +Proof.
>> +  exact cocontfunctors.is_omega_cocont_binproduct_functor.
> 
> Why qualify the name instead of writing just `is_omega_cocont_binproduct_functor`?  Similarly in other locations.

Because it helps me to find the file where the thing is defined, in the
absence of Coq and the HTML documentation.

**Comment by DanGrayson** [comment]
g
